US09079911B2
(5-(4,6-Dimethylpyrimidin-2-yl)hexahydropyrrolo[3,4-c]pyrrol-2(1H)-yl)(3-fluoro-2-(pyridin-2-yl)phenyl)methanone.
(5-(4,6-Dimethylpyrimidin-2-yl)hexahydropyrrolo[3,4-c]pyrrol-2(1H)-yl)(3-fluoro-2-iodophenyl)methanone (51 mg, 0.11 mmol) and 2-tributylstannane pyridine (57 mg, 0.13 mmol) were combined and dissolved in degassed DME then purged with bubbling N2 for 5 minutes. The reaction was treated with Pd(PPh3)4 and then purged with bubbling for 5 minutes in a sealed vessel and then heated to 160° C. in microwave for 90 min. Reaction was filtered through celite, concentrated and purified on 16 g SiO2 with 0-3.5% NH3 MeOH/CH2Cl2. MS (ESI) mass calcd. for C24H24FN5O, 417.49; m/z found, 418.2 [M+H]+. 1H NMR (500 MHz, CDCl3): 7.71-7.64 (m, 1H), 7.57-7.52 (m, 1H), 7.46 (dddd, J=8.2, 5.6, 2.8, 1.2 Hz, 1H), 7.37 (td, J=7.9, 5.5 Hz, 1H), 7.30-7.24 (m, 2H), 7.20 (ddd, J=9.0, 2.5, 1.5 Hz, 1H), 7.11 (tdd, J=8.4, 2.6, 1.0 Hz, 1H), 6.31 (s, 1H), 3.97 (dd, J=12.7, 7.8 Hz, 1H), 3.89 (dd, J=11.5, 7.7 Hz, 1H), 3.82-3.70 (m, 2H), 3.70-3.60 (m, 2H), 3.50 (dd, J=11.5, 4.6 Hz, 1H), 3.40 (dd, J=10.9, 5.4 Hz, 1H), 3.07 (d, J=7.2 Hz, 1H), 3.03-2.94 (m, 1H), 2.30 (s, 6H).

reactant | (5-(4,6-Dimethylpyrimidin-2-yl)hexahydropyrrolo[3,4-c]pyrrol-2(1H)-yl)(3-fluoro-2-iodophenyl)methanone | 0.11 mmol, 51 mg | CC1=NC(=NC(=C1)C)N1CC2C(C1)CN(C2)C(=O)C2=C(C(=CC=C2)F)I | C19H20FIN4O
reactant | DME | COCCOC | C4H10O2
product | (5-(4,6-Dimethylpyrimidin-2-yl)hexahydropyrrolo[3,4-c]pyrrol-2(1H)-yl)(3-fluoro-2-(pyridin-2-yl)phenyl)methanone | CC1=NC(=NC(=C1)C)N1CC2C(C1)CN(C2)C(=O)C2=C(C(=CC=C2)F)C2=NC=CC=C2 | C24H24FN5O
